US06610711B2
N-Hexyl-4-(3-hydroxyphenyl)piperidine
To a stirred solution of 3-(4-piperidinyl)phenol (Preparation 47, 376 mg, 2.12 mmol) in N,N-dimethylformamide (5 ml) was added sodium hydrogen carbonate (267 mg, 3.18 mmol) and 1-bromohexane (0.36 ml, 2.55 mmol). The reaction mixture was heated at 100° C. for 4 h. The reaction mixture was then diluted with water (20 ml) and extracted with diethyl ether (3×10 ml). The combined organic extracts were dried (MgSO4), filtered and concentrated in vacuo to give the title compound as an oil which was not purified further (500 mg, 89%).

reactant | 3-(4-piperidinyl)phenol | 2.12 mmol, 376 mg | N1CCC(CC1)C=1C=C(C=CC1)O | C11H15NO
reactant | sodium hydrogen carbonate | 3.18 mmol, 267 mg | C(O)([O-])=O.[Na+]
reactant | 1-bromohexane | 2.55 mmol, 0.36 ml | BrCCCCCC | C6H13Br
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
product | N-Hexyl-4-(3-hydroxyphenyl)piperidine | C(CCCCC)N1CCC(CC1)C1=CC(=CC=C1)O | C17H27NO
